US07115750B1
2-[(N,N-Dimethylamino)methyl]-6-tetralinyl 4-biphenylylcarboxylate
4-Biphenylylcarboxylic acid (580 mg) and WSC (560 mg) were added to pyridine solution (6 ml) of 2-[(N,N-dimethylamino)methyl]-6-hydroxytetralin (300 mg), which was stirred at room temperature for 36 hours. Saturated sodium bicarbonate solution and water were added to the reaction mixture, and extraction was conducted using ethyl acetate. The organic layer was washed with water and saturated aqueous sodium chloride solution, dried, and then concentrated. The residue was purified using alumina column chromatography (development solvent; hexane˜hexane:ethyl acetate=10:1), and recrystallized (hexane) to give the titled compound (300 mg).

reactant | 4-Biphenylylcarboxylic acid | 580 mg | C1(=CC=C(C=C1)C(=O)O)C1=CC=CC=C1 | C13H10O2
reactant | WSC | 560 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | 2-[(N,N-dimethylamino)methyl]-6-hydroxytetralin | 300 mg | CN(C)CC1CC2=CC=C(C=C2CC1)O | C13H19NO
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
solvent | pyridine | 6 ml | N1=CC=CC=C1 | C5H5N
product | 2-[(N,N-Dimethylamino)methyl]-6-tetralinyl 4-biphenylylcarboxylate | 300 mg | C1(=CC=C(C=C1)C(=O)OC=1C=C2CCC(CC2=CC1)CN(C)C)C1=CC=CC=C1 | C26H27NO2
